US08871756B2
A mixture of [4-(benzyloxy)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol and [4-(benzyloxy)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol (700 mg, about 1.57 mmol) and oxetane-3,3-diyldimethanamine (700 mg, 6.03 mmol) was heated at 160° C. for 30 minutes. After being cooled to room temperature, the reaction mixture was diluted with water (10 mL), extracted with dichloromethane (20 mL×3). The organic layers were washed with brine (40 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to afford [4-({[3-(aminomethyl)oxetan-3-yl]methyl}amino)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol, MS obsd. (ESI+) [(M+H)+] 454, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.139 (s, 1 H), 7.918 (s, 1 H), 7.71 (m, 2 H), 7.48 (m, 3 H), 7.316 (d, J=8 Hz, 1 H), 5.21 (m, 2 H), 4.75 (m, 2 H), 4.51 (m, 4 H), 4.369 (s, 3 H), 3.93 (brs, 1 H), 3.15 (brs, 2 H), 2.989 (s, 2 H), and [4-({[3-(aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol, MS obsd. (ESI+) [(M+H)+] 470, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.197 (s, 1 H), 7.789 (m, 3 H), 7.62 (t, J=7.2 Hz, 1 H), 7.48 (m, 2 H), 7.316 (s, 1 H), 5.12 (m, 3 H), 4.48 (m, 8 H), 3.917 (s, 2 H), 3.569 (brs, 2 H), 2.951 (brs, 2 H).

reactant | [4-(benzyloxy)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)=O | C25H23N3O3S
reactant | [4-(benzyloxy)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol | about 1.57 mmol, 700 mg | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C25H23N3O4S
reactant | oxetane-3,3-diyldimethanamine | 6.03 mmol, 700 mg | O1CC(C1)(CN)CN | C5H12N2O
solvent | water | 10 mL | O | H2O
product | [4-({[3-(aminomethyl)oxetan-3-yl]methyl}amino)-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-6-yl]methanol | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)=O | C23H27N5O3S
